** vco.cir **
*
* For demonstrating Ko, the oscillator sensitivity to input voltage
*
Vcc cc gnd DC 6V
Vee ee gnd DC -6V
Vin in gnd PWL (0m -4V 20m 4V) 
Xvco cc ee in out emitter_coupled_oscillator
Rload out gnd 10k
*
.include vco.mod
.control
tran .1u 20m .1u
plot v(out) v(in)
*
